US05703072
To a solution of 8-chloro-11-[(6S,8S)-8-hydroxy-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-oxazepine (64 mg, 0.173 mmol), benzoic acid (42.3 mg, 0.346 mmol) and triphenylphosphine (91.0 mg, 0.346 mmol) in anhydrous methylene chloride (20 mL) at 0° C. under argon was added diethyl azodicarboxylate (60.3 mg, 0.346 mmol) via syringe. The reaction mixture was allowed to warm to room temperature and was stirred overnight. The product was absorbed onto silica gel and purified by flash column chromatography using 10% acetone in hexanes as the eluent to give 51.6 mg (63%) of 8-chloro-11-[(6S,8R)-8-benzoyl-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-oxazepine as an off-white solid; mp (succinic acid salt) 92°-94° C.; Rf(25% acetone/hexanes): 0.45; HRMS (FAB): MH+ of C27H24N3O3Cl, calculated 474.1584, found 474.1595.

reactant | 8-chloro-11-[(6S,8S)-8-hydroxy-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-oxazepine | 0.173 mmol, 64 mg | ClC1=CC2=C(OC3=C(C(=N2)N2CCN4C[C@H](C[C@H]4C2)O)C=CC=C3)C=C1 | C20H20ClN3O2
reactant | benzoic acid | 0.346 mmol, 42.3 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triphenylphosphine | 0.346 mmol, 91.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.346 mmol, 60.3 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 8-chloro-11-[(6S,8R)-8-benzoyl-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-oxazepine | 51.6 mg, 63% | ClC1=CC2=C(OC3=C(C(=N2)N2CCN4C[C@@H](C[C@H]4C2)C(C2=CC=CC=C2)=O)C=CC=C3)C=C1 | C27H24ClN3O2
